US08207347B2
2,4-Dimethyl-6-oxo-1-propylamino-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide
To a mixture of 1-amino-2,4-dimethyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide (415 mg, 1.21 mmol), propionaldehyde (0.52 mL, 7.3 mmol) and acetic acid (0.5 mL, 9 mmol) in methanol (10 mL) was added sodium cyanoborohydride (0.27 g, 4.2 mmol) and the mixture was stirred under argon atmosphere for 3 days at room temperature. The crude reaction mixture was concentrated in vacuo, diluted with H2O (30 mL) and extracted with dichloromethane (3×30 mL). The combined organic phases were washed with brine, dried over MgSO4 and evaporated. The crude mixture was purified by flash chromatography, yield 34%. LC-MS (m/z) 386.5 (MH+); tR=1.63 (method C).

reactant | 1-amino-2,4-dimethyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide | 1.21 mmol, 415 mg | C1(CCC1)[C@@H](C1=CC(=CC=C1)F)NC(=O)C1=C(N(C(C=C1C)=O)N)C | C19H22FN3O2
reactant | propionaldehyde | 7.3 mmol, 0.52 mL | C(CC)=O | C3H6O
reactant | acetic acid | 9 mmol, 0.5 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 4.2 mmol, 0.27 g | C(#N)[BH3-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 2,4-Dimethyl-6-oxo-1-propylamino-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide | yield 34% | C1(CCC1)[C@@H](C1=CC(=CC=C1)F)NC(=O)C1=C(N(C(C=C1C)=O)NCCC)C | C22H28FN3O2
